US04703046
A solution of 2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 1.2 g.), dimethylformamide (0.46 ml.) and phosphoryl chloride (0.54 ml.) in dry ethyl acetate (12 ml.) was added to a solution of 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (2.12 g.) and trimethylsilylacetamide (6.7 g.) in dry ethyl acetate (20 ml.) at -10° to -20° C. and stirred at the same temperature for 1.5 hrs. The reaction mixture was washed with water and adjusted to pH 8 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 2 with hydrochloric acid. The precipitates were collected by filtration and dried to give 7-[2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 2.9 g.).

reactant | 2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid | 1.2 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)C | C8H9N3O4S
reactant | phosphoryl chloride | 0.54 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.12 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trimethylsilylacetamide | 6.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.46 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)C | C18H17N7O6S4
